US05300687
Ethyl 3-trifluoromethylbenzylphosphonic acid
The diethyl 3-trifluoromethylbenzylphosphonate (10.0 g, 34.0 mmol) was dissolved in a mixture of 300 mL of 75% aqueous ethanol and 18.9 g of KOH and the resultant mixture was heated at reflux for 3 hours. The reaction mixture was poured into H2O, acidified with hydrochloric acid, and extracted with CHCl3 (3×500 mL). The chloroform extract was dried with anhydrous Na2SO4 and evaporated to yield 8.64 g (94.7%) of white solid product, mp=48°-51° C.; D.C.I.M.S.[MH+,269].

reactant | diethyl 3-trifluoromethylbenzylphosphonate | 34.0 mmol, 10.0 g | FC(C=1C=C(CP(OCC)(OCC)=O)C=CC1)(F)F | C12H16F3O3P
reactant | H2O | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | KOH | 18.9 g | [OH-].[K+]
product | Ethyl 3-trifluoromethylbenzylphosphonic acid | 8.64 g, 94.7% | C(C)OP(O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C10H12F3O3P
